US07772238B2
6-Aminomethyl-benzo[b]thiophene-2-carboxylic acid methyl ester, hydrochloride salt.
The title compound was prepared from 6-hydroxymethyl-benzo[b]thiophene-2-carboxylic acid methyl ester in procedures similar to those described for the preparation of 6-aminomethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester, hydrochloride salt. 1H NMR (DMSO-d6, 200 MHz) δ 8.70 (brs, 2H), 8.24-8.12 (m, 2H), 8.05 (d, J=8.4 Hz, 1H), 7.63 (dd, J=8.0, 1.0 Hz, 1H), 4.20-4.14 (m, 2H), 3.88 (s, 3H). MS (EI): cal'd 222.0 (MH+), exp 222.1 (MH+).

reactant | 6-hydroxymethyl-benzo[b]thiophene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=C(S1)C=C(C=C2)CO | C11H10O3S
reactant | 6-aminomethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester, hydrochloride salt | Cl.C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)CN
product | 6-Aminomethyl-benzo[b]thiophene-2-carboxylic acid methyl ester, hydrochloride salt | Cl.COC(=O)C1=CC2=C(S1)C=C(C=C2)CN | InChI=1S/C11H11NO2S.ClH/c1-14-11(13)10-5-8-3-2-7(6-12)4-9(8)15-10;/h2-5H,6,12H2,1H3;1H
